Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
amoxicillin / Penicillins / Bactrim / sulfathiazole / lithium
 
Attending: ___.
 
Chief Complaint:
NICU proximity
 
Major Surgical or Invasive Procedure:
None at ___

 
History of Present Illness:
Ms. ___ is a ___ G1P1 now ___ s/p pLTCS for
NRFHT and arrest of dilation at 7cm, who was transferred from 
___
for NICU proximity for evaluation of neonatal seizures. She also
has a h/o IVDU and HepC, as well as gestational 
thrombocytopenia.
She is also noted to have a complex psychosocial history,
including unstable housing situation (currently living in a
shelter), h/o PTSD from multiple physical, verbal, and sexual
abuse encounters, including DV by FOB (not involved in 
pregnancy)
and bipolar disorder. She presented in labor at 40w5d, was
augmented with Pitocin and was ultimately recommended for a
cesarean delivery given NRFHT and arrest of dilation. Apgars 
were
6,9. Per operative note, delivery was complicated by a difficult
extraction, with R lateral extension down to the cervix and L
lateral extension proximal to the uterine artery. 

For her history of IVDU, she has been clean throughout this
pregnancy, with most recent negative Utox on ___. She was not 
on
methadone or suboxone. She has been followed by ID and 
hepatology
for her HepC, most recent VL at 66,000 in ___ with normal
LFTs. She had negative HIV testing. She was noted to have
gestational thrombocytopenia beginning approximately one month
ago, with most recent plt at 83 (___). She has otherwise had
normal BPs and normal testing this pregnancy. 

 
Past Medical History:
OBHx:
G1 - as above

GYNHx: denies h/o STIs, h/o abnl pap smears, or GYN surgeries

MedHx:
- Chronic HepC
- Migraines
- PTSD
- h/o IVDU 
- Anemia
- Bipolar Disorder 

SurgHx: C/S as above

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Physical Exam on Discharge: 
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Lungs: breathing comfortably on room air
Abdomen: soft, appropriately tender, fundus firm
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 

 
Pertinent Results:
___ 09:40PM BLOOD WBC-10.8*# RBC-2.97*# Hgb-8.7*# 
Hct-25.9*# MCV-87 MCH-29.3 MCHC-33.6 RDW-13.7 RDWSD-43.5 Plt 
___
___ 09:40PM BLOOD ___ PTT-27.1 ___
___ 09:40PM BLOOD ALT-19 AST-27
 
Brief Hospital Course:
Ms. ___ is a ___ G1P1 who underwent pLTCS for NRFHT and 
arrest of dilation on ___, with a medical history notable 
for hepatitis C, IV drug use, gestational thrombocytopenia, and 
multiple social stressors.  She was transferred to ___ from 
___ for NICU proximity.  

Her intrapartum and post partum course were as follows:

*) History of IV drug use:
Ms. ___ had a negative urine toxin screen on ___. 

*) Vulvar edema and lower extremity edema:
Post partum, Ms. ___ was noted to have vulvar and lower 
extremity edema, thought to likely be from fluid shifts 
associated with pregnancy.  There was no evidence of infection 
or blood clots.  She did receive one dose of Lasix 20 mg PO on 
___.

*) Chronic Hepatitis C
Ms. ___ is followed by infectious disease at ___ 
___.  Her last viral load was 66,000 (___).  She 
has normal LFTs and is HIV negative.

*) Gestational thrombocytopenia
Platelets were 83 on ___, and 101 on admission.  Bleeding was 
normal.

*) Social stressors
Ms. ___ was followed by social work for her history of 
unstable housing and history of domestic abuse by father of the 
baby.

By postpartum day 4, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled.

 
Medications on Admission:
prenatal vitamins, tums
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*20 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*20 Capsule Refills:*0 
3.  Ferrous Sulfate 325 mg PO DAILY anemia 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Moderate Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
postpartum transfer for NICU proximity
S/p c-section at ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking narcotics (i.e. Oxycodone, Percocet)
Do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
 
Followup Instructions:
___